resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.006206
R2 0 n2 1.005783
R3 0 n4 1.018626
R4 n1 n3 0.996674
R5 n1 n5 0.998999
R6 n2 n3 0.980128
R7 n2 n6 0.994696
R8 n3 n7 0.986686
R9 n4 n5 0.992286
R10 n4 n6 1.005003
R11 n5 n7 0.994584
R12 n6 n7 1.00542
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
